US04503243
2,4,8,10-Tetra-t-butyl-6,12-dimethyl-12H-dibenzo[d,g][1,3,2]dioxasilocin
Utilizing the procedure of Example 1, this compound is prepared from 23.0 grams (0.20 mole) dichloromethylsilane, 87.7 grams (0.20 mole) 2,2'-ethylidene-bis(4,6-di-t-butylphenol) and 40.5 grams (0.40 mole) of triethylamine. Recrystallization twice from acetonitrile-toluene gives 49.0 g (51% yield) of white crystals, mp 189°-194° C.

reactant | dichloromethylsilane | 0.20 mole, 23.0 grams | ClC(Cl)[SiH3] | CH4Cl2Si
reactant | 2,2'-ethylidene-bis(4,6-di-t-butylphenol) | 0.20 mole, 87.7 grams | C(C)(C1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)O)C1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)O | C30H46O2
reactant | triethylamine | 0.40 mole, 40.5 grams | C(C)N(CC)CC | C6H15N
product | 2,4,8,10-Tetra-t-butyl-6,12-dimethyl-12H-dibenzo[d,g][1,3,2]dioxasilocin | 49.0 g, 51% yield | C(C)(C)(C)C1=CC2=C(O[SiH](OC3=C(C2C)C=C(C=C3C(C)(C)C)C(C)(C)C)C)C(=C1)C(C)(C)C | C31H48O2Si
